US06825220B2
A mixture of tetrahydrofuran (990 mL), 4-methoxyindolin-2-one (J. Chem. Soc., 3904, 1952; Tetrahedron, 24:6093, 1968, 39.60 g, 242.7 mmol), and N,N,N′,N′-tetramethylethylenediamine (56.40 g, 485.4 mmol) is cooled to −78° C. N-butyllithium (379.2 mL, 606.7 mmol, 1.6M in hexanes) is added over 1 hour so as to maintain the reaction temperature between −70° C. and −69° C. After stirring the mixture for 50 minutes at −78° C., iodomethane (36.17 g, 254.8 mmol) is added over 50 minutes at −78° C. to −64° C. The reaction mixture is allowed to warm to −40° C. and iodomethane (48.23 g, 0.3398 mol) is added incrementally over 1 hour until the starting material is less than 3 percent by HPLC (retention 7.3 minutes; Zorbax SB-Phenyl (4.6 mm×25 cm); solvent A—trifluoroacetic acid solution (0.1%, v/v); solvent B—acetonitrile; 1.0 mL/min; 254 nm; gradient method: 0.00-2.00 minutes, 30% A, 70% B; 2.00-7.00 minutes, linear ramp from 30% A, 70% B to 80% A, 20% B; 7.00-15.00 minutes, 80% A, 20% B). Methanol (20 mL) is added to the reaction mixture over 15 minutes at −60° C. to −50° C. Aqueous hydrochloric acid (1N, 250 mL) is added allowing the temperature to rise to −4° C. The solution is transferred to a separatory funnel with ethyl acetate (500 mL), aqueous hydrochloric acid (1N, 250 mL) and a saturated sodium chloride solution (250 mL). After separating, the organic layer is extracted twice with aqueous hydrochloric acid (1N, 250 mL) and the aqueous layer is extracted with ethyl acetate (250 mL). The combined organic layers are washed with a saturated sodium chloride solution (250 mL) then dried over magnesium sulfate. After filtration, the solvents are removed by rotary evaporation to give 43.58 g (91.6%) of 4-methoxy 3-methyl-1,3-dihydro-indol-2-one as a solid, mp 128-130° C. MS (ES+) m/z 178 (M++1).

reactant | 4-methoxyindolin-2-one | 242.7 mmol, 39.60 g | COC1=C2CC(NC2=CC=C1)=O | C9H9NO2
reactant | N,N,N′,N′-tetramethylethylenediamine | 485.4 mmol, 56.40 g | CN(CCN(C)C)C | C6H16N2
reactant | N-butyllithium | 606.7 mmol, 1.6M, 379.2 mL | [Li+].CCC[CH2-]
reactant | iodomethane | 254.8 mmol, 36.17 g | IC | CH3I
reactant | iodomethane | 0.3398 mol, 48.23 g | IC | CH3I
reactant | hydrochloric acid | 1N, 250 mL | Cl | ClH
reactant | hydrochloric acid | 1N, 250 mL | Cl | ClH
reactant | sodium chloride | 250 mL | [Cl-].[Na+]
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | Methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 990 mL | O1CCCC1 | C4H8O
product | 4-methoxy 3-methyl-1,3-dihydro-indol-2-one | 43.58 g, 91.6% | COC1=C2C(C(NC2=CC=C1)=O)C | C10H11NO2
